US07405236B2
a] 5-(4-Trifluoromethoxy-phenyl)-pent-4-ynoic acid methyl ester
In analogy to the procedure described for example 8 a], pent-4-ynoic acid methyl ester (W. D. Wulff, S. J. McCallum, F. A. Kunng, J. Am. Chem. Soc. 1988, 110, 7419-7434) was reacted with 1-iodo-4-trifluoromethoxy-benzene in the presence of PdCl2(Ph3P)2 and cuprous iodide to give the title compound as brown oil.

reactant | pent-4-ynoic acid methyl ester | COC(CCC#C)=O | C6H8O2
reactant | 1-iodo-4-trifluoromethoxy-benzene | IC1=CC=C(C=C1)OC(F)(F)F | C7H4F3IO
product | 5-(4-Trifluoromethoxy-phenyl)-pent-4-ynoic acid methyl ester | COC(CCC#CC1=CC=C(C=C1)OC(F)(F)F)=O | C13H11F3O3
